US08431525B2
Under an argon atmosphere, 3-benzyl-5-(4-hydroxyphenyl)-2-(phenylthioacetyl amino)pyrazine (h-coelenterathioamide) (c-14) (183 mg, 444 μmol) was dissolved in pyridine (2 mL) and cooled to 0° C. To this was added acetic anhydride (55 μL, 0.58 mmol) and stirred for 2 h after warming to room temperature. To this was further added acetic anhydride (25 μL, 0.26 mmol) and stirred at room temperature for 2.5 h. To this was added saturated aqueous solution of sodium bicarbonate and ethyl acetate to stop the reaction, and after separating the aqueous layer and organic layer, the organic layer was washed 3 times with water and once with brine and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated under reduced pressure with a rotary evaporator. After purifying the residue by silica gel column chromatography (22 g, n-hexane/ethyl acetate=2/1), the obtained solid was further purified by silica gel column chromatography (7 g, n-hexane/ethyl acetate=2/1) to give 5-(4-acetoxyphenyl)-3-benzyl-2-(phenylthioacetylamino)pyrazine (c-31) as a pale yellow solid (96.3 mg, 47.8%). Rf=0.36 (n-hexane/ethyl acetate=2/1). Mp. 143-145° C. UV (MeOH) λmax (log ε) 320 (4.30), 258 (4.41). UV (pH 7.4 PB) λmax (log ε) 346 (4.36), 274 (4.35). 1H NMR (400 MHz, DMSO-d6) δ 2.29 (s, 3H), 3.95 (s, 2H), 4.14 (s, 2H), 7.00 (d, J=6.6 Hz, 2H), 7.12-7.24 (m, 3H), 7.26-7.32 (AA′BB′, 3H), 7.36 (t, J=7.3 Hz, 2H), 7.51 (d, J=7.5 Hz, 2H), 8.12-8.18 (AA′BB′, 2H), 9.04 (s, 1H), 12.23 (s, 1H). 13C NMR (75.5 MHz, DMSO-d6) δ 20.9, 39.4, 51.6, 122.6 (2C), 126.4, 127.0, 128.0 (2C), 128.3 (2C), 128.4 (2C), 128.9 (2C), 129.0 (2C), 132.8, 136.8, 137.9, 138.6, 145.9, 149.0, 151.9, 152.4, 169.1, 204.7. IR (KBr, cm−1) 700, 1128, 1165, 1179, 1200, 1238, 1368, 1389, 1416, 1441, 1493, 1508, 1730, 3265. HRMS (FAB+) m/z 454.1583 (M+H, C27H24N3O2S requires 454.1589).

reactant | 3-benzyl-5-(4-hydroxyphenyl)-2-(phenylthioacetyl amino)pyrazine | 444 μmol, 183 mg | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NC(CC1=CC=CC=C1)=S | C25H21N3OS
reactant | acetic anhydride | 0.58 mmol, 55 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.26 mmol, 25 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-(4-acetoxyphenyl)-3-benzyl-2-(phenylthioacetylamino)pyrazine | 96.3 mg, 47.8% | C(C)(=O)OC1=CC=C(C=C1)C=1N=C(C(=NC1)NC(CC1=CC=CC=C1)=S)CC1=CC=CC=C1 | C27H23N3O2S
